US06830859B2
296 Grams of dimethyl 5-sulfoisophthalate sodium salt were placed together with 2000 g of ion exchanged water in a reactor equipped with a stirrer. The contents in the reactor were heated with stirring to 80° C. so that the sodium salt was dissolved in water. A solution of barium chloride dissolved in an amount of 104 g into 900 ml of ion exchanged water was then gradually added dropwise to the thus obtained solution. The resulting mixture was cooled to 30° C. and filtered to separate white precipitates. The precipitates were dispersed in 3000 g of ion exchanged water. The dispersion was heated to 80° C., maintained at that temperature for 1 hour, cooled to 30° C. and then filtered. The precipitates were washed with water. Such a procedure including dispersion, heating, filtration and washing steps was repeated once more. The thus obtained precipitates were dried at 120° C. for 5 hours to obtain 297 g of dimethyl 5-sulfoisophthalate barium salt as a white powder. The atomic absorption analysis revealed that the 5-sulfoisophthalic acid barium salt powder contained 20.1% by weight of barium and 100 ppm by weight of sodium.

reactant | dimethyl 5-sulfoisophthalate sodium salt | [Na].S(=O)(=O)(O)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC
reactant | sodium | [Na] | Na
reactant | barium chloride | [Cl-].[Ba+2].[Cl-]
solvent | water | O | H2O
product | dimethyl 5-sulfoisophthalate barium salt | 297 g | [Ba].S(=O)(=O)(O)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | InChI=1S/C10H10O7S.Ba/c1-16-9(11)6-3-7(10(12)17-2)5-8(4-6)18(13,14)15;/h3-5H,1-2H3,(H,13,14,15);
